US04940710
1-Ethyl-6-fluoro-7-[3-(fluoromethyl)-4-methyl-1-piperazinyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A 100 mg portion of 1-ethyl-6-fluoro-7-[3-(fluoromethyl)-1-piperazinyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid and 300 mg of sodium formate were dissolved in a mixture of 3 ml of glacial acetic acid and 3 ml of 37% formaldehyde and refluxed overnight. The mixture was cooled, basified with sodium hydroxide, acidified with glacial acetic acid and evaporated. The residue was triturated with hot chloroform and the solid crystallized from methanol, giving 91 mg of the desired product, mp 230°-235° C. (dec.).

reactant | 1-ethyl-6-fluoro-7-[3-(fluoromethyl)-1-piperazinyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)CF)F)=O)C(=O)O | C17H19F2N3O3
reactant | sodium formate | 300 mg | C(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | formaldehyde | 3 ml | C=O | CH2O
product | 1-Ethyl-6-fluoro-7-[3-(fluoromethyl)-4-methyl-1-piperazinyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 91 mg | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(N(CC1)C)CF)F)=O)C(=O)O | C18H21F2N3O3
